US07384934B2
(S)-2-Isopropyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine dihydrochloride
Combine (S)-2-isopropyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine (0.405 g, 1.07 mmol) and 37% formaldehyde solution (0.1 mL, 1.12 mmol) in 1,2-dichloroethane (25 mL). Stir for 10 minutes and add sodium triacetoxy borohydride (0.343 g, 1.60 mmol). Stir an additional 30 minutes and then pour solution onto saturated sodium bicarbonate solution. Extract with methylene chloride to give 0.489 g of the crude product. Silica gel chromatography, eluting with methylene chloride:methanol (100:10), gives 0.354 g of the title compound as the free base. The dihydrochloride salt precipitates in ethyl acetate as a solid: mp=210° C.; mass spectrum (ion spray): m/z=393 (M+1); Analysis for C24H34Cl2N4O: calcd: C, 61.93; H, 7.36; N, 12.04; found: C, 61.74; H, 7.47; N, 11.86.

reactant | (S)-2-isopropyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 1.07 mmol, 0.405 g | C(C)(C)C1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1 | C23H30N4O
reactant | formaldehyde | 1.12 mmol, 0.1 mL | C=O | CH2O
reactant | sodium triacetoxy borohydride | 1.60 mmol, 0.343 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
product | (S)-2-Isopropyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine dihydrochloride | 0.354 g | Cl.Cl.C(C)(C)C1=CC2=C(NC3=C(N=C2N2C[C@@H](N(CC2)C)CCOC)C=CC=C3)C=C1 | InChI=1S/C24H32N4O.2ClH/c1-17(2)18-9-10-21-20(15-18)24(26-23-8-6-5-7-22(23)25-21)28-13-12-27(3)19(16-28)11-14-29-4;;/h5-10,15,17,19,25H,11-14,16H2,1-4H3;2*1H/t19-;;/m0../s1
